US07728025B2
(Step 5) Production of 1-(2-(6-(4-fluoro-phenylsulfanyl)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
20 mg of 4-fluoro-benzenethiol and 30 mg of potassium carbonate were added in order to an N,N-dimethylformamide (1 ml) solution of 50 mg of pyridine-2-carboxylic acid-(4-(1-acetyl-pyrrolidin-2-yl)-5-fluoro-2-nitro-phenyl)-amide, and the reaction liquid was stirred at 100° C. for 2 hours. 30 mg of tin(II) chloride dihydrate was added to the reaction liquid, and the reaction liquid was stirred at 100° C. for 3 hours. After cooled, the reaction liquid was diluted with aqueous saturated sodium bicarbonate and extracted with chloroform, and the organic layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain the entitled compound as a white solid.

reactant | 4-fluoro-benzenethiol | 20 mg | FC1=CC=C(C=C1)S | C6H5FS
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine-2-carboxylic acid-(4-(1-acetyl-pyrrolidin-2-yl)-5-fluoro-2-nitro-phenyl)-amide | 50 mg | C(C)(=O)N1C(CCC1)C1=CC(=C(C=C1F)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C18H17FN4O4
reactant | tin(II) chloride dihydrate | 30 mg | O.O.[Sn](Cl)Cl
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(2-(6-(4-fluoro-phenylsulfanyl)-2-pyridin-2-yl-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | FC1=CC=C(C=C1)SC=1C(=CC2=C(N=C(N2)C2=NC=CC=C2)C1)C1N(CCC1)C(C)=O | C24H21FN4OS
